simulator lang=spectre
global 0

ahdl_include "sample_hold.va"

// sample_hold gold smoke testbench
// Ramp input 0->0.9V over 1us, 50MHz clock (period=20ns).
// Check: output steps at clock edges and holds between them.


Vvdd (vdd 0) vsource dc=0.9 type=dc
Vvss (vss 0) vsource dc=0.0 type=dc

Vin (in 0) vsource type=pwl wave=[0 0 1e-6 0.9]

Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 period=20n width=10n rise=200p fall=200p

IDUT (vdd vss in clk out) sample_hold vth=0.45 tedge=100p

tran tran stop=1u maxstep=2n
save in clk out
